US06800629B2
In a mixture of 570 mL of 12 mol/L hydrochloric acid and 57 mL of tetrahydrofuran was suspended 57.3 g of 3,6-difluoro-2-pyrazinecarbonitrile. The suspension was stirred at 30-35° C. for 6.5 hours. The reaction mixture was concentrated to dryness under reduced pressure, 100 mL of ethanol was added, and then the solvent and hydrochloric acid were removed under reduced pressure. The residue thus obtained was washed with ethanol and diisopropyl ether to obtain 53.7 g of 3,6-difluoro-2-pyrazinecarboxamide as a colorless solid product.

reactant | 3,6-difluoro-2-pyrazinecarbonitrile | 57.3 g | FC=1C(=NC(=CN1)F)C#N | C5HF2N3
reactant | tetrahydrofuran | 57 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 12 mol/L, 570 mL | Cl | ClH
product | 3,6-difluoro-2-pyrazinecarboxamide | 53.7 g | FC=1C(=NC(=CN1)F)C(=O)N | C5H3F2N3O
